US04146631
Salicylic acid (10 g) was added to chlorosulphonic acid (60 ml) during 5 minutes. The mixture was then heated at 130°-140° C. for 90 minutes. After cooling, the mixture was cooled and then added dropwise to an excess of a mixture of ice and water, keeping the temperature below 0° C. The precipitated solid was extracted with dichloromethane, and the organic extract was dried over sodium sulphate, and concentrated in vacuo to a small volume and treated with petroleum ether (b.p. 40°-60° C.). The precipitate was filtered off and recrystallized from a large volume of toluene to give 3,5-bis(chlorosulphonyl)salicylic acid (9.95 g), m.p. 185°-187° C.

reactant | Salicylic acid | 10 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | chlorosulphonic acid | 60 ml | ClS(=O)(=O)O | ClHO3S
solvent | water | O | H2O
product | 3,5-bis(chlorosulphonyl)salicylic acid | 9.95 g | ClS(=O)(=O)C1=C(C(C(=O)O)=CC(=C1)S(=O)(=O)Cl)O | C7H4Cl2O7S2
